US06833387B1
Ethyl 3-(2,2-dimethyl-1,3-dioxolane-4-ylmethoxy)indole-2-carboxylate (Precursor to Compounds 70 and 71)
Rhodium acetate dimer (30 mg) was added to a solution of solketal (0.87 ml) and ethyl 3-diazoindole-2-carboxylate (3 mg) in dichloroethane (10 ml), and stirred at 85° C. for 3 hours. The reaction was concentrated in vacuo and the residue purified by column chromatography using a gradient of 0% to 20% ethyl acetate:iso-hexane as eluent to afford the product as a pale yellow solid (435 mg, 97%); NMR d (CD3SOCD3) 1.27-1.38 (m, 9H), 3.88 (m, 1H), 4.11 (m, 3H), 4.30 (q, 2H), (m, 1H), 7.01 (t, 1H), 7.24 (t, 1H), 7.36 (d, 1H), 7.65 (d, 1H), 11.27 (s, 1H); M/z (+) 320.3 (MH+).

reactant | solketal | 0.87 ml | CC1(OCC(O1)CO)C | C6H12O3
reactant | ethyl 3-diazoindole-2-carboxylate | 3 mg | [N+](=[N-])=C1C(=NC2=CC=CC=C12)C(=O)OCC | C11H9N3O2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
catalyst | Rhodium acetate dimer | 30 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | Ethyl 3-(2,2-dimethyl-1,3-dioxolane-4-ylmethoxy)indole-2-carboxylate | 435 mg, 97% | CC1(OCC(O1)COC1=C(NC2=CC=CC=C12)C(=O)OCC)C | C17H21NO5
